US05008447
4,4'-bis(3-isocyanatopropanoyloxy)biphenyl
From 35 g (0.26 mol) of 3-isocyanatopropanoic acid chloride and 30 g (0.09 mol) of 4,4'-bis(trimethylsiloxy)biphenyl.

reactant | 3-isocyanatopropanoic acid chloride | 0.26 mol, 35 g | N(=C=O)CCC(=O)Cl | C4H4ClNO2
reactant | 4,4'-bis(trimethylsiloxy)biphenyl | 0.09 mol, 30 g | C[Si](OC1=CC=C(C=C1)C1=CC=C(C=C1)O[Si](C)(C)C)(C)C | C18H26O2Si2
product | 4,4'-bis(3-isocyanatopropanoyloxy)biphenyl | N(=C=O)CCC(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(CCN=C=O)=O | C20H16N2O6
